data/oMe_Silver.jsonl
{"reaction_id": "NR-225_1-c1ccccc1","level": "medium","name": "Pinnick-Lindgren Oxidation","reactants_smiles": ["C(c1ccccc1)C=O","Cl(=O)([O-])"],"products_smiles": ["C(c1ccccc1)C(=O)O"],"conditions": "NaH2PO4, t-BuOH, 2-methyl-2-butene","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)C(O)O(Cl=O)","step_weight": 0,"rationale": "The aldehyde carbonyl is highly electrophilic due to the polarized C=O bond, enabling nucleophilic attack by chlorite under buffered conditions, forming a tetrahedral intermediate stabilized by adjacent oxygen lone pairs."},{"step": 2,"type": "rearrangement","subtype": "rearrangement","intermediate_smiles": "C(c1ccccc1)C(=O)O","step_weight": 0,"rationale": "Rearrangement proceeds as electron shifts favor formation of the more stable carboxylate, driven by strong thermodynamic stability of the C=O in acids and elimination of HClO as a good leaving group."}],"description": "In the Pinnick-Lindgren oxidation, chlorite ion selectively oxidizes aldehydes to carboxylic acids under mild, buffered conditions. Nucleophilic attack on the electrophilic carbonyl initiates the process, followed by rearrangement to release oxidized product while minimizing side reactions via chlorine scavenging."}
{"reaction_id": "NR-100_1-CC(C)C","level": "medium","name": "Haloform Reaction","reactants_smiles": ["C(=O)(C)CC(C)C","BrBr","[OH-]"],"products_smiles": ["C(=O)(O)CC(C)C","C(Br)(Br)Br"],"conditions": "Br2, NaOH","mechanism_step_nums": 10,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(=C)CC(C)C","step_weight": 0,"rationale": "Strong base deprotonates the acidic α-hydrogen due to resonance stabilization of the resulting enolate by the adjacent carbonyl."},{"step": 2,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=O)(CBr)CC(C)C","step_weight": 0,"rationale": "The electron-rich enolate α-carbon attacks electrophilic Br2, favored by the polarization of the Br–Br bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(=CBr)CC(C)C","step_weight": 0,"rationale": "Base again deprotonates the remaining α-hydrogen, which is more acidic due to the inductive effect of the bromine substituent."},{"step": 4,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=O)(C(Br)Br)CC(C)C","step_weight": 0,"rationale": "The enolate formed attacks Br2, with electron withdrawal by the first bromine accelerating further halogenation."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(=C(Br)Br)CC(C)C","step_weight": 0,"rationale": "Further deprotonation occurs as the α-hydrogen acidity increases with two bromines inductively withdrawing electron density."},{"step": 6,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=O)(C(Br)(Br)Br)CC(C)C","step_weight": 0,"rationale": "The highly activated enolate rapidly undergoes electrophilic bromination to give the tribromomethyl ketone."},{"step": 7,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([O-])(O)(C(Br)(Br)Br)CC(C)C","step_weight": 0,"rationale": "Hydroxide attacks the carbonyl carbon, favored by the strong electrophilicity from the adjacent tribromomethyl group."},{"step": 8,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(O)CC(C)C.[C-](Br)(Br)Br","step_weight": 0,"rationale": "The tetrahedral intermediate collapses, expelling the tribromomethyl anion, a good leaving group stabilized by three bromines."},{"step": 9,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(Br)(Br)Br.C(=O)([O-])CC(C)C","step_weight": 0,"rationale": "The tribromomethyl anion abstracts a proton from water or solvent due to its strong basicity, forming bromoform."},{"step": 10,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(O)CC(C)C","step_weight": 0,"rationale": "The carboxylate intermediate is protonated under workup conditions to yield the carboxylic acid product."}],"description": "In basic conditions, the methyl ketone undergoes sequential α-bromination via enolate intermediates, driven by the electron-withdrawing carbonyl and strong electrophilicity of Br2. Complete halogenation facilitates nucleophilic attack by hydroxide, leading to cleavage and formation of carboxylate and bromoform as stable products."}
